US07230023B2
(3) Allyl 4-[(1R,2R)-2-[[trans-2-[(1E,3E)-4-(4-cyano-2-fluorophenyl)-1,3-butadienyl]-1,3-dioxan-5-yl]thio]-1-(2,4-difluorophenyl)-1-[(1H-1,2,4-triazol-1-yl)methyl]propoxy]-4-oxobutyl succinate
The crude allyl 4-chloro-4-oxobutyl succinate was treated with 4-[(1E,3E)-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-1,3-butadienyl]-3-fluorobenzonitrile (814 mg, 1.50 mmol) described in Reference example 1 and sodium hydride (55% dispersion in mineral oil; 70 mg, 1.6 mmol) according to a similar procedure to that described in Example 13-(2). The obtained crude title compound was purified by recycle preparative HPLC [LC-908; Japan Analytical Industry Co., Ltd.; GPC column JAIGEL-1H (20 mm i.d.×600 mm) and JAIGEL-2H (20 mm i.d.×600 mm) connected in series for use; solvent, chloroform] to afford the title compound (459 mg, 40% yield) as a colorless viscous material.

reactant | allyl 4-chloro-4-oxobutyl succinate | C(CCC(=O)OCCCC(=O)Cl)(=O)OCC=C | C11H15ClO5
reactant | 4-[(1E,3E)-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-1,3-butadienyl]-3-fluorobenzonitrile | 1.50 mmol, 814 mg | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)S[C@H]1CO[C@@H](OC1)/C=C/C=C/C1=C(C=C(C#N)C=C1)F)(CN1N=CN=C1)O | C27H25F3N4O3S
reactant | sodium hydride | 1.6 mmol, 70 mg | [H-].[Na+]
product | Allyl 4-[(1R,2R)-2-[[trans-2-[(1E,3E)-4-(4-cyano-2-fluorophenyl)-1,3-butadienyl]-1,3-dioxan-5-yl]thio]-1-(2,4-difluorophenyl)-1-[(1H-1,2,4-triazol-1-yl)methyl]propoxy]-4-oxobutyl succinate | 459 mg, 40% yield | C(CCC(=O)OCCCC(=O)O[C@@]([C@@H](C)S[C@H]1CO[C@@H](OC1)\C=C\C=C\C1=C(C=C(C=C1)C#N)F)(CN1N=CN=C1)C1=C(C=C(C=C1)F)F)(=O)OCC=C | C38H39F3N4O8S
